US05455253
4-(3-Chlorophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone.
A mixture of 4-(4-chlorophenyl)-3-butene-2-one (5.0 g), 1,3-cyclohexanedione (3.24 g), ammonium acetate (3.20 g) and 90 mL of ethanol were heated at reflux overnight and then cooled to room temperature. The solvent was evaporated and the residue was partitioned between water and ethyl acetate. The organic layer was dried, filtered, and evaporated to obtain a yellow solid. Recrystallization from ethanol provided the title compound as a yellow solid (3.0 g); mp 201°-203° C.; NMR: 1.73 (s,3, CH3), 1.87-1.98 (m,2, CH2), 2.13-2.17 (m,2, CH2), 2.43-2.49 (m,2, CH2), 4.40 (d,1, J=4.9, CH), 4.60 (d,1, J=4.9, CH), 7.09-7.25 (m,4, Ar), 8.50 (s,1, NH); (CI, CH4) MS: m/z=274(M+1). Analysis for C16H16ClNO.0.15 H2O: Calculated C, 69.51; H; 5.94; N, 5.07; Found: C, 69.47; H, 6.03; N, 4.91.

reactant | 4-(4-chlorophenyl)-3-butene-2-one | 5.0 g | ClC1=CC=C(C=C1)C=CC(C)=O | C10H9ClO
reactant | 1,3-cyclohexanedione | 3.24 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 3.20 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 90 mL | C(C)O | C2H6O
product | 4-(3-Chlorophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone | 3.0 g | ClC=1C=C(C=CC1)C1C=C(NC=2CCCC(C12)=O)C | C16H16ClNO
